US04294841
The procedure is as in Example 11, starting from 1.35 g of 4-aminoacetophenone (instead of 24 g of 2-hydroxyacetophenone) and 2.14 g of pyridine-4-carbaldehyde instead of 21 g and using a 2.5 N aqueous sodium hydroxide solution instead of an 11 N solution. 2.2 g of 1-(4-aminophenyl) 3-(4-pyridyl) 2-propene-1-one which melts at 207° C. are obtained.

reactant | 4-aminoacetophenone | 1.35 g | CC(=O)C1=CC=C(C=C1)N | C8H9NO
reactant | 2-hydroxyacetophenone | 24 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | pyridine-4-carbaldehyde | 2.14 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | sodium hydroxide | 2.5 N | [OH-].[Na+]
product | 1-(4-aminophenyl) 3-(4-pyridyl) 2-propene-1-one | 2.2 g | NC1=CC=C(C=C1)C(C=CC1=CC=NC=C1)=O | C14H12N2O
